US08426420B2
vi) 5-[2-((S)-2-Carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester
To a solution of 13.2 g 5-[2-((S)-2-benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester in 100 ml ethyl acetate was added 1 g Pd/C (10%) and the resulting suspension stirred under an atmosphere of hydrogen (3 bar) for 6 h. The reaction mixture was filtered over a plug of Celite and washed with ethanol giving the crude product after evaporation of the solvents which was used without further purification.

reactant | 5-[2-((S)-2-benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | 13.2 g | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C26H27N3O6
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 5-[2-((S)-2-Carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)O)C1=CC=CC=C1 | C19H21N3O6
